US06316637B1
1-Propyl-4-bromo-5-aminobenzimidazole.
To a solution of 1-propyl-5-aminobenzimidazole (1.2 g, 7.1 mmol) in 10 ml of AcOH was added solution of Br2 in AcOH until it produces a precipitation. The reaction mixture was concentrated in vacuo to provide a brown solid which was subjected to column chromatography (5% NH3 sat'd MeOH/CH2Cl2) to provide 0.83 g (3.4 mmol, 48%) of the product.

reactant | 1-propyl-5-aminobenzimidazole | 7.1 mmol, 1.2 g | C(CC)N1C=NC2=C1C=CC(=C2)N | C10H13N3
reactant | Br2 | BrBr | Br2
reactant | NH3 | N | H3N
reactant | MeOH CH2Cl2 | CO.C(Cl)Cl
solvent | AcOH | 10 ml | CC(=O)O | C2H4O2
product | 1-Propyl-4-bromo-5-aminobenzimidazole | 3.4 mmol, 0.83 g, 48% | C(CC)N1C=NC2=C1C=CC(=C2Br)N | C10H12BrN3
